US07482366B2
[1,1′-bis(diphenylphosphino)ferrocene]dichloropalladium (II) complex with dichloromethane (1:1), (286 mg, 0.35 mmol), potassium acetate (1.55 g, 15.8 mmol), and bis(pinacolato)diboron (1.3 g, 5.3 mmol) were placed into a vial and degassed with stream of nitrogen for 20 min. In a separate vial, 5-bromo-2-ethoxy-3-trifluoromethyl-pyridine (945 mg, 3.5 mmol) was dissolved in 7 ml anhydrous DMSO and degassed with stream of nitrogen for 20 min. The DMSO solution of 5-bromo-2-ethoxy-3-trifluoromethyl-pyridine was added to the “catalyst” vial, and then heated at 80° C. overnight. After cooling to ambient temperature, water and ethyl acetate were added to the reaction mixture and the aqueous layer was extracted with ethyl acetate. The combined extract was washed with brine, dried over sodium sulfate, and concentrated in vacuo. The crude product was purified by column chromatography on silica gel (10→30% EtOAC/Hexane) to give 2-ethoxy-5-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-3-trifluoromethyl-pyridine as solid (1.08 g, 97% yield). 1H-NMR (400 MHz, CDCl3): δ 1.35 (s, 12H), 1.42 (t, 3H, J=7.07), 4.52 (q, 2H, J=7.07), 8.20 (d, 1H, J=1.01), 8.64 (d, 1H, J=1.26).

reactant | dichloromethane | 0.35 mmol, 286 mg | ClCCl | CH2Cl2
reactant | potassium acetate | 15.8 mmol, 1.55 g | C(C)(=O)[O-].[K+]
reactant | bis(pinacolato)diboron | 5.3 mmol, 1.3 g | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
reactant | 5-bromo-2-ethoxy-3-trifluoromethyl-pyridine | 3.5 mmol, 945 mg | BrC=1C=C(C(=NC1)OCC)C(F)(F)F | C8H7BrF3NO
solvent | DMSO | 7 ml | CS(=O)C | C2H6OS
catalyst | [1,1′-bis(diphenylphosphino)ferrocene]dichloropalladium | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | 2-ethoxy-5-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-3-trifluoromethyl-pyridine | 1.08 g, 97% yield | C(C)OC1=NC=C(C=C1C(F)(F)F)B1OC(C(O1)(C)C)(C)C | C14H19BF3NO3
